US06518257B1
(i) Production of 1-(3-bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
By the reaction in the same manner as in Example 1-(ii) using 1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanone (34.90 g) and O-dibromobenzene (50.7 g), the title compound (37.7 g) was obtained as a colorless solid.

reactant | 1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanone | 34.90 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C(C)C)=O | C26H24N2O
reactant | O-dibromobenzene | 50.7 g | C1=CC=C(C(=C1)Br)Br | C6H4Br2
product | 1-(3-bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 37.7 g | BrC=1C=C(C=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
